US07427612B2
[4-(4-Methanesulfonyl-phenyl)-piperazin-1-yl]-(2-morpholin-4-yl-5-nitro-phenyl)-methanone
The title compound was prepared according to the procedure described for example 46 from 1-(4-Methanesulfonyl-phenyl)-piperazine and 2-Morpholin-4-yl-5-nitro-benzoyl chloride (76%, yellow solid, MS (m/e): 475.1 (M+H, 100%)

reactant | 1-(4-Methanesulfonyl-phenyl)-piperazine | CS(=O)(=O)C1=CC=C(C=C1)N1CCNCC1 | C11H16N2O2S
reactant | 2-Morpholin-4-yl-5-nitro-benzoyl chloride | N1(CCOCC1)C1=C(C(=O)Cl)C=C(C=C1)[N+](=O)[O-] | C11H11ClN2O4
product | [4-(4-Methanesulfonyl-phenyl)-piperazin-1-yl]-(2-morpholin-4-yl-5-nitro-phenyl)-methanone | CS(=O)(=O)C1=CC=C(C=C1)N1CCN(CC1)C(=O)C1=C(C=CC(=C1)[N+](=O)[O-])N1CCOCC1 | C22H26N4O6S
